US07662808B2
N-[4-(1,4-Diaza-bicyclo[3.2.2]non-4-yl)phenyl]-4-nitro-benzamide hydrochloric acid salt (Compound G4)
Was prepared by Method G from 4-(1,4-diaza-bicyclo[3.2.2]non-4-yl) phenylamine and 4-nitrobenzoyl chloride. Mp. >280° C.

reactant | 4-(1,4-diaza-bicyclo[3.2.2]non-4-yl) phenylamine | N12CCN(C(CC1)CC2)C2=CC=C(C=C2)N | C13H19N3
reactant | 4-nitrobenzoyl chloride | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
product | N-[4-(1,4-Diaza-bicyclo[3.2.2]non-4-yl)phenyl]-4-nitro-benzamide hydrochloric acid salt | Cl.N12CCN(C(CC1)CC2)C2=CC=C(C=C2)NC(C2=CC=C(C=C2)[N+](=O)[O-])=O | InChI=1S/C20H22N4O3.ClH/c25-20(15-1-5-19(6-2-15)24(26)27)21-16-3-7-17(8-4-16)23-14-13-22-11-9-18(23)10-12-22;/h1-8,18H,9-14H2,(H,21,25);1H
